US07282512B2
A solution of 3.0 g (23 mmol) of ethyl cyclobutanecarboxylate in 10 mL of tetrahydrofuran was added to a −78° C. solution of 25.74 mmol of lithium diisopropylamide in 45 ml tetrahydrofuran. The reaction was warmed to 0° C. over 15 min and then cooled to −78° C., followed by the addition of 3.64 mL (25.74 mmol) of benzyl 2-bromoethyl ether in 10 mL of tetrahydrofuran. The reaction was gradually warmed to room temperature over 16 h and then quenched with 20 mL of saturated ammonium chloride. The reaction was concentrated and ethyl acetate was added. The organic layer was isolated, dried with magnesium sulfate, and concentrated under vacuum to afford an oil, which was purified by silica gel chromatography eluting with ethyl acetate:hexane (2:8) to afford 4.3 g (70%) of ethyl 1-[2-(benzyloxy)ethyl]cyclobutanecarboxylate as a colorless oil. 1H NMR (300 MHz, CDCl3) δ 7.31-7.22 (m, 5H), 4.01 (q, J=7 Hz, 2H), 4.40 (s, 2H), 2.40 (t, J=7 Hz, 2H), 1.92-1.84 (m, 6H), 1.14 (t, J=7 Hz, 3H). GC-MS m/z 263 (M+H).

reactant | ethyl cyclobutanecarboxylate | 23 mmol, 3.0 g | C1(CCC1)C(=O)OCC | C7H12O2
reactant | lithium diisopropylamide | 25.74 mmol | C(C)(C)[N-]C(C)C.[Li+]
reactant | benzyl 2-bromoethyl ether | 25.74 mmol, 3.64 mL | BrCCOCC1=CC=CC=C1 | C9H11BrO
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | ethyl 1-[2-(benzyloxy)ethyl]cyclobutanecarboxylate | 4.3 g, 70% | C(C1=CC=CC=C1)OCCC1(CCC1)C(=O)OCC | C16H22O3
